US06951868B2
A mixture of methyl 2H-chromene-7-carboxylate (372 mg, 1.96 mmol) and 10% Pd/C (25 mg) in methanol (15 mL) is stirred under 1 atm of hydrogen at rt for 3 h. The mixture is filtered through Celite and the filtrate is concentrated to a yellow residue. The crude product is purified by flash chromatography on SiO2. Elution with hexanes-EtOAc (95:5) gives 140 mg (37%) of methyl chromane-7-carboxylate as a clear oil: 1H NMR (400 MHz, CDCl3) δ 7.51, 7.47, 7.10, 4.23, 3.91, 2.85, 2.04.

reactant | methyl 2H-chromene-7-carboxylate | 1.96 mmol, 372 mg | O1CC=CC2=CC=C(C=C12)C(=O)OC | C11H10O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | methyl chromane-7-carboxylate | 140 mg, 37% | O1CCCC2=CC=C(C=C12)C(=O)OC | C11H12O3
